US04179506
A solution of 3.5 g of pyrido[3,4-B][1,4]benzodioxin in 40 ml of dichloromethane is treated with 4.04 g of 85% m-chloroperbenzoic acid. The mixture is refluxed with stirring for 4 days. The mixture is diluted with 250 ml of dichloromethane and washed with excess 25% sodium hydroxide solution. The organic layer is dried and evaporated to yield pyrido[3,4-B][1,4]-benzodioxin-2 oxide, mp 232°-233° C. dec.

reactant | pyrido[3,4-B][1,4]benzodioxin | 3.5 g | C1=NC=CC=2OC3=C(OC21)C=CC=C3 | C11H7NO2
reactant | m-chloroperbenzoic acid | 4.04 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | pyrido[3,4-B][1,4]-benzodioxin-2 oxide | C1=[N+](C=CC=2OC3=C(OC21)C=CC=C3)[O-] | C11H7NO3
